* source SIMULERING
R_R19         0 N48604  1000000meg TC=0,0 
C_CM5         0 N48594  5.2p  TC=0,0 
L_LM6         N48604 N48662  65n  
R_R18         0 N48662  50 TC=0,0 
V_V6         N48570 0 DC 0Vdc AC 1Vac 
C_CM6         N48594 N75394  100p  TC=0,0 
C_C33         0 N64206  18p  TC=0,0 
C_C32         N64192 0  18p  TC=0,0 
L_L15         N64222 N64238  27n  
V_V5         N64168 0 DC 0Vdc AC 1Vac 
C_C34         0 N64222  11p  TC=0,0 
C_C31         N64242 N64238  470p  TC=0,0 
R_R15         0 N64242  50 TC=0,0 
R_R14         0 N64178  100000meg TC=0,0 
L_L12         N64178 N64192  47n  
R_R16         0 N64206  100000meg TC=0,0 
C_C29         N72799 N64178  470p  TC=0,0 
L_L13         N64192 N64206  68n  
L_L14         N64206 N64222  47n  
L_LM11         N66548 N76524  58n  
R_R21         0 N66612  50 TC=0,0 
V_V7         N66528 0 DC 0Vdc AC 1Vac 
C_CM8         0 N66548  18.5p  TC=0,0 
C_CM7         N77933 N74719  220p  TC=0,0 
R_R20         0 N66548  1000000meg TC=0,0 
C_CM9         0 N66582  18.5p  TC=0,0 
L_L0         N675620 N67702  22nH  
C_C23         N67546 N67764  470p  TC=0,0 
L_LM         N67702 N67716  56nH  
C_CP2         N67532 N67546  5p  TC=0,0 
V_V4         N67686 0 DC 0Vdc AC 1Vac 
R_R9         0 N67716  1000000meg TC=0,0 
L_LM4         N67532 N67546  47nH  
C_CM2         0 N67522  18p  TC=0,0 
L_LM3         N67522 N67532  68nH  
C_CM         0 N67702  18p  TC=0,0 
C_CP1         N67522 N67532  4p  TC=0,0 
L_LM2         N67716 N67522  47nH  
R_R12         0 N67764  50 TC=0,0 
C_CM3         0 N67532  18p  TC=0,0 
C_C0         N75100 N675620  100p  TC=0,0 
C_C13         0 N67764  11p  TC=0,0 
L_LM9         N48594 N48604  36.8n  
C_CM10         0 N48604  22p  TC=0,0 
R_R22         N72799 N64168  50 TC=0,0 
C_C28         N64206 N64222  2p  TC=0,0 
R_R23         N74719 N66528  50 TC=0,0 
R_R24         N75100 N67686  50 TC=0,0 
R_R25         N75394 N48570  50 TC=0,0 
L_LM16         0 N48594  200n  
C_CM12         0 N76524  21.7p  TC=0,0 
L_LM13         N76524 N66582  58n  
L_LM17         N66582 N77223  26.4n  
L_LM18         N77933 N66548  26.4n  
C_CM13         N66612 N77223  220p  TC=0,0 
C_C35         N64192 N64206  3p  TC=0,0 
C_CM14         N66582 N76524  500f  TC=0,0 
