* source SIMULERING
R_R19         0 N48604  1000000meg TC=0,0 
C_CM5         0 N48594  10.54p  TC=0,0 
C_CM4         0 N48614  20.3p  TC=0,0 
L_LM6         N48604 N48614  52n  
R_R18         0 N48662  50 TC=0,0 
V_V6         N48570 0 DC 0Vdc AC 1Vac 
C_CM6         N48594 N75730  200p  TC=0,0 
L_LM10         N48614 N62639  24n  
C_C33         0 N64032  18p  TC=0,0 
C_C32         N64022 0  18p  TC=0,0 
L_L15         N64046 N64238  27n  
V_V5         N64168 0 DC 0Vdc AC 1Vac 
C_C28         N64032 N64046  1.8p  TC=0,0 
C_C34         0 N64046  11p  TC=0,0 
C_C31         N64242 N64238  470p  TC=0,0 
R_R15         0 N64242  50 TC=0,0 
R_R14         0 N64178  100000meg TC=0,0 
L_L12         N64178 N64022  47n  
C_C27         N64022 N64032  2.7p  TC=0,0 
R_R16         0 N64032  100000meg TC=0,0 
C_C29         N72799 N64178  470p  TC=0,0 
L_L13         N64022 N64032  68n  
L_L14         N64032 N64046  47n  
L_LM11         N66538 N66572  64.3n  
L_LM14         0 N66538  42n  
R_R21         0 N66576  50 TC=0,0 
V_V7         N66528 0 DC 0Vdc AC 1Vac 
C_C39         N66572 N66576  10.9p  TC=0,0 
C_CM8         0 N66538  17p  TC=0,0 
C_CM7         N66538 N75636  100u  TC=0,0 
R_R20         0 N66538  1000000meg TC=0,0 
L_LM13         N66576 0  42n  
C_CM9         0 N66576  17p  TC=0,0 
L_L0         N67696 N67702  22nH  
C_C23         N67546 N67778  470p  TC=0,0 
L_LM         N67702 N67716  56nH  
C_CP2         N67532 N67546  5p  TC=0,0 
V_V4         N67686 0 DC 0Vdc AC 1Vac 
R_R9         0 N67716  1000000meg TC=0,0 
L_LM4         N67532 N67546  47nH  
C_CM2         0 N67522  18p  TC=0,0 
L_LM3         N67522 N67532  68nH  
C_CM         0 N67702  18p  TC=0,0 
C_CP1         N67522 N67532  4p  TC=0,0 
L_LM2         N67716 N67522  47nH  
R_R12         0 N67778  50 TC=0,0 
C_CM3         0 N67532  18p  TC=0,0 
C_C0         N75384 N67696  100p  TC=0,0 
C_C13         0 N67546  11p  TC=0,0 
L_LM9         N48594 N48604  46n  
C_CM10         0 N48604  22.8p  TC=0,0 
R_R22         N72799 N64168  50 TC=0,0 
R_R23         N75384 N67686  50 TC=0,0 
R_R24         N75636 N66528  50 TC=0,0 
R_R25         N75730 N48570  50 TC=0,0 
C_CM11         N48662 N62639  200p  TC=0,0 
